US06599917B1
b) 2-Benzyl-6-(3,3-ethylenedioxy-2-pyrrolidinone-1-yl)-3-hydroxypyridine
1.1 g of 2-benzyl-3-methoxymethyloxy-6-[(3S)-3-hydroxy-2-pyrrolidinone-1-yl]pyridine was dissolved in 20 ml of acetone, and 1 ml of a Jone's reagent was added thereto, followed by stirring at room temperature for 1.5 hours. 2-Propanol and water were added thereto, followed by extracting with ethyl acetate. The organic phase was further washed with brine, dried over anhydrous sodium sulfate and the solvent was removed. The resulting residue was dissolved in 20 ml of toluene. 1 ml of ethylene glycol and 198 mg of p-toluenesulfonic acid were added thereto, followed by heating under reflux for 2 hours while removing water by use of Dean Stark apparatus. After cooling as it was, water was added thereto and the mixture was extracted with ethyl acetate. The organic phase was further washed with brine, dried over anhydrous sodium sulfate and the solvent was removed. The residue was subjected to silica gel column chromatography using 30-40% ethyl acetate/hexane as an eluent for separation and purification, to give 398 mg of the target compound.

reactant | 2-benzyl-3-methoxymethyloxy-6-[(3S)-3-hydroxy-2-pyrrolidinone-1-yl]pyridine | 1.1 g | C(C1=CC=CC=C1)C1=NC(=CC=C1OCOC)N1C([C@H](CC1)O)=O | C18H20N2O4
reactant | 2-Propanol | CC(C)O | C3H8O
reactant | water | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-Benzyl-6-(3,3-ethylenedioxy-2-pyrrolidinone-1-yl)-3-hydroxypyridine | 398 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1O)N1C(C2(CC1)OCCO2)=O | C18H18N2O4
